US08372874B2
To a solution of 1.13 g (5.94 mmol) of 2-acetylsulfanyl-2-methyl-propionic acid ethyl ester in ethanol (20 mL, degassed) are added 1.28 g (23.7 mmol) of sodium methoxide, followed by 1.13 g (5.94 mmol) of 2-[(3R)-oxolan-3-yl]ethyl methanesulfonate under nitrogen atmosphere. The reaction is heated to 80° C. for 16 h. The solvent is removed under reduced pressure. The residue is dissolved in ethyl acetate (50 mL) and washed with saturated aqueous NaHCO3 solution (2×15 mL) and 1M aqueous HCl solution (2×15 mL). The organic layer is dried over Na2SO4, filtered and the filtrate is concentrated under reduced pressure. The residue is purified twice by column chromatography (silica, eluent: heptanes, ethyl acetate) to afford 0.43 g of ethyl 2-methyl-2-({2-[(3R)-oxolan-3-yl]ethyl}sulfanyl)propanoate (UV purity: 70%). Yield: 21%, m/z 247 [M+H]; 1H NMR (250 MHz, CHLOROFORM-d) δ ppm 1.29 (3 H, t, J=7.08 Hz), 1.43-1.81 (9H, m), 1.95-2.16 (1H, m), 2.20-2.35 (1H, m), 2.53-2.67 (2 H, m), 3.34 (1H, dd, J=8.38, 7.16 Hz), 3.66-3.98 (3H, m), 4.17 (2H, q, J=7.06 Hz)

reactant | 2-acetylsulfanyl-2-methyl-propionic acid ethyl ester | 5.94 mmol, 1.13 g | C(C)OC(C(C)(C)SC(C)=O)=O | C8H14O3S
reactant | sodium methoxide | 23.7 mmol, 1.28 g | C[O-].[Na+]
reactant | 2-[(3R)-oxolan-3-yl]ethyl methanesulfonate | 5.94 mmol, 1.13 g | CS(=O)(=O)OCC[C@@H]1COCC1 | C7H14O4S
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | ethyl 2-methyl-2-({2-[(3R)-oxolan-3-yl]ethyl}sulfanyl)propanoate | 0.43 g, Yield: 21% | CC(C(=O)OCC)(C)SCC[C@@H]1COCC1 | C12H22O3S
